US06313119B1
(2S)-2-(Naphthalene-1-sulfonylamino)-3-(4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-ethyl)-benzoylamino)-propionic acid isobutyl ester
600 mg of (2S)-2-(naphthalene-1-sulfonylamino)-3-(4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-ethyl)-benzoylamino)-propionic acid was dissolved in 12 ml of isobutanol and 0.1 ml of concentrated sulfuric acid was added. The reaction solution was boiled for 24 hours. The solvent was removed in vacuo, and the residue was chromatographed on silica gel eluting with dichloromethane/methanol/acetic acid/water (9/1/0.1/0.1). The product was dissolved in acetic acid/water and lyophilized. Yield 250 mg. MS (ES+): m/e=608.5 (M+H)+.

reactant | (2S)-2-(naphthalene-1-sulfonylamino)-3-(4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-ethyl)-benzoylamino)-propionic acid | 600 mg | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)N[C@H](C(=O)O)CNC(C1=CC=C(C=C1)CCC(NC=1NCCCN1)=O)=O | C27H29N5O6S
reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
solvent | isobutanol | 12 ml | C(C(C)C)O | C4H10O
product | (2S)-2-(Naphthalene-1-sulfonylamino)-3-(4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-ethyl)-benzoylamino)-propionic acid isobutyl ester | C(C(C)C)OC([C@H](CNC(C1=CC=C(C=C1)CCC(NC=1NCCCN1)=O)=O)NS(=O)(=O)C1=CC=CC2=CC=CC=C12)=O | C31H37N5O6S
